US06060620
Comparative Example 4. (Reaction between Divinyldisiloxane and Dimethylmethoxysilane) A glass tube was filled with 0.186 g of 1,3-divinyltetramethyl-1,3-disiloxane, 0.18 g of dimethylmethoxysilane, and 0.047 g of toluene. The contents were combined with 2 μL of a toluene solution of a complex of 1,3-divinyltetramethyldisiloxane and 0-valence platinum (platinum content: 0.4 Wt. %). The content was heated for 3 hours at 50° C. Gas chromatography analysis showed that the conversion of 1,3-divinyltetramethyl-1,3-disiloxane was 68% and that monosilyl and disilyl compounds of divinylbenzene were produced with the yields of 37% and 30%, respectively. The ratio of α-adducts to β-adducts was 6:1 and the ratio of α, α-adducts to α,β-adducts was 4.4:1.

reactant | dimethylmethoxysilane | 0.18 g | C[SiH](OC)C | C3H10OSi
reactant | 1,3-divinyltetramethyldisiloxane | C(=C)[Si](O[Si](C=C)(C)C)(C)C | C8H18OSi2
reactant | toluene | 2 μL | C1(=CC=CC=C1)C | C7H8
reactant | toluene | 0.047 g | C1(=CC=CC=C1)C | C7H8
catalyst | platinum | [Pt] | Pt
product | divinylbenzene | C(=C)C1=C(C=CC=C1)C=C | C10H10
